US07790724B2
b) 4-Amino-3-(4,4-dimethyl-cyclohex-1-enyl)-benzonitrile
The title compound was prepared from 4-amino-3-bromo-benzonitrile (as prepared in the previous step, 1.0 g, 5.0 mmol), 4,4-dimethylcyclohexen-1-yl boronic acid (938 mg, 6.07 mmol), Pd(PPh3)4 (585 mg, 0.506 mmol) and 2M Na2CO3 (20.2 mL, 40.5 mmol) according to the procedure in Example 44, step (b) (284 mg, 25%). Mass spectrum (ESI, m/z): Calcd. for C15H18N2, 227.1, found 227.3.

reactant | 4-amino-3-bromo-benzonitrile | NC1=C(C=C(C#N)C=C1)Br | C7H5BrN2
reactant | 4,4-dimethylcyclohexen-1-yl boronic acid | 6.07 mmol, 938 mg | CC1(CC=C(CC1)B(O)O)C | C8H15BO2
reactant | Na2CO3 | 40.5 mmol, 2M, 20.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.506 mmol, 585 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Amino-3-(4,4-dimethyl-cyclohex-1-enyl)-benzonitrile | NC1=C(C=C(C#N)C=C1)C1=CCC(CC1)(C)C | C15H18N2
